US08426412B2
A. 6-(5-Chloropyridin-2-yl)pyridazin-3(2H)-one
To a dry 100 mL flask equipped with magnetic stirrer and reflux condenser was charged 2.0 g of 6-(5-chloropyridin-2-yl)-4,5-dihydropyridazin-3(2H)-one (0.00955 mol), and about 25 mL of glacial acetic acid (some solid did not dissolve). Bromine (0.5 mL; 0.00955 mol) was added in one portion, and the reaction was slowly heated to reflux. After about 15 minutes at reflux, the color discharged. An aliquot was analyzed by TLC which revealed no starting material remained, and one major product was formed. The reaction was cooled and stirred at ambient temperature overnight. The reaction mixture was poured into about 300 mL of water, and stirred to afford a tan solid which was collected by vacuum filtration, washed with water, hexane, and dried in vacuo at 40° C. overnight. Isolated 1.9 g of a tan solid was isolated. The NMR data is as follows: 300 MHz 1H NMR (DMSO d-6, TMS=0 ppm) 7.10 (d, AH); 7.75 (d, AH); 8.11 (d, 1H) 8.70 (d, AH); 13.4 (bs, 1H). The sample had 96% isolated yield.

reactant | 6-(5-chloropyridin-2-yl)-4,5-dihydropyridazin-3(2H)-one | 0.00955 mol, 2.0 g | ClC=1C=CC(=NC1)C=1CCC(NN1)=O | C9H8ClN3O
reactant | acetic acid | about 25 mL | C(C)(=O)O | C2H4O2
reactant | Bromine | 0.00955 mol, 0.5 mL | BrBr | Br2
solvent | water | about 300 mL | O | H2O
product | 6-(5-Chloropyridin-2-yl)pyridazin-3(2H)-one | 1.9 g | ClC=1C=CC(=NC1)C=1C=CC(NN1)=O | C9H6ClN3O
